US08614206B2
To a solution of 6-azido-3-(2-methyl-4-nitro-pyrazol-3-yl)-8-oxa-3-azabicyclo[3.2.1]octane (250 g, 0.8 mmol) in THF (10 mL) and water (2 mL), was added trimethylphosphine (1 M solution in toluene, 5 mL, 4.47 mmol) and the mixture was heated at 65° C. for 16 hr. The solvents were removed under reduced pressure and the resulting residue was dissolved in (2 M, 15 mL) and washed with EtOAc (2×10 mL). The aqueous layer was basified to pH 14 with 5 M aqueous NaOH solution and extracted with DCM (3×20 mL). The combined DCM layers were passed through a phase separation cartridge and concentrated under reduced pressure to afford a cream solid, (220 mg). To a solution of this amine in DCM (10 mL) was added triethylamine (0.18 mL 1.3 mmol) and DMAP (26 mg, 0.22 mmol). The mixture was cooled to 0° C. and a solution of di-tert-butyl dicarbonate (0.28 g, 1.3 mmol) in DCM (2 mL) was added slowly. The reaction mixture was stirred at room temperature for 18 hr. The mixture was diluted with DCM (10 mL) and washed with water (10 mL). The organic layer was passed through a phase separation cartridge and concentrated under reduced pressure. Purification via silica gel column chromatography (1-10% MeOH/DCM) gave tert-butyl N-(3-(2-methyl-4-nitro-pyrazol-3-yl)-8-oxa-3-azabicyclo[3.2.1]octan-6-yl)carbamate as an off-white solid (110 mg, 66% over two steps). 1H NMR (400 MHz, CDCl3) δ 8.03 (s, 1H), 4.64-4.52 (m, 1H), 4.20 (s, 1H), 3.85 (s, 3H), 3.50-3.41 (m, 4H), 2.69-2.46 (m, 3H), 1.84-1.76 (m, 1H), 1.45 (s, 9H).

reactant | 6-azido-3-(2-methyl-4-nitro-pyrazol-3-yl)-8-oxa-3-azabicyclo[3.2.1]octane | 0.8 mmol, 250 g | N(=[N+]=[N-])C1C2CN(CC(C1)O2)C=2N(N=CC2[N+](=O)[O-])C | C10H13N7O3
reactant | trimethylphosphine | 4.47 mmol, 1 M, 5 mL | CP(C)C | C3H9P
reactant | triethylamine | 1.3 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.3 mmol, 0.28 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.22 mmol, 26 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-(3-(2-methyl-4-nitro-pyrazol-3-yl)-8-oxa-3-azabicyclo[3.2.1]octan-6-yl)carbamate | CN1N=CC(=C1N1CC2CC(C(C1)O2)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C15H23N5O5
